US04307106
N-phenethylthiourea (225 grams, 1.25 moles) and α-bromoacetophenone (250 grams, 1.25 moles, Aldrich Chem. Co.) in 1500 ml absolute ethanol were heated to reflux temperature for 21/2 hours under nitrogen. After reducing the solvent volume by 10%, the reaction mixture was cooled to room temperature and then to 0° C. in an ice bath. The solids were filtered off, redissolved in 2,500 ml of absolute ethanol and heated to reflux. The solvent volume was reduced to 2000 ml and the reaction mixture cooled to 0° C. This procedure was repeated and after the second recrystallization the solids were collected and dried under vacuum over phosphorous pentoxide, yielding 365 grams (81%) of 2-phenethylamino-4-phenyl-thiazole hydrobromide, m.p. 169°-172° C.

reactant | N-phenethylthiourea | 1.25 moles, 225 grams | C(CC1=CC=CC=C1)NC(=S)N | C9H12N2S
reactant | α-bromoacetophenone | 1.25 moles, 250 grams | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
solvent | ethanol | 1500 ml | C(C)O | C2H6O
product | 2-phenethylamino-4-phenyl-thiazole hydrobromide | 365 grams, 81% | Br.C(CC1=CC=CC=C1)NC=1SC=C(N1)C1=CC=CC=C1 | InChI=1S/C17H16N2S.BrH/c1-3-7-14(8-4-1)11-12-18-17-19-16(13-20-17)15-9-5-2-6-10-15;/h1-10,13H,11-12H2,(H,18,19);1H
